US07105544B2
N-{3-[1-(3-{[BIS(4-CHLOROPHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]-4-METHYLPHENYL}-2-METHYLPROPANAMIDE
Example 52 was prepared from bis(4-chlorophenyl)acetic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 7.65 (s, 1H), 7.62 (d, 1H, J=2.4 Hz), 7.53 (t, 1H, J=4.8 Hz), 7.28–7.22 (m, 8H), 7.12 (dd, 1H, J=2.0, 8.4 Hz), 7.03 (d, 1H, J=8.0 Hz), 4.80 (s, 1H), 3.36 (dd, 2H, J=6.0, 11.6 Hz), 2.91 (d, 2H, J=14.0 Hz), 2.64 (m, 1H), 2.47 (m, 1H), 2.38 (t, 2H, J=5.6 Hz), 2.24 (s, 3H), 2.00–1.93 (m, 2H), 1.70–1.56 (m, 6H), 1.16 (d, 6H, J=7.2 Hz); ESMS m/e: 580.3 (M+H)+.

reactant | bis(4-chlorophenyl)acetic acid | ClC1=CC=C(C=C1)C(C(=O)O)C1=CC=C(C=C1)Cl | C14H10Cl2O2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1C)NC(C(C)C)=O | C19H31N3O
product | N-{3-[1-(3-{[BIS(4-CHLOROPHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]-4-METHYLPHENYL}-2-METHYLPROPANAMIDE | ClC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1C)NC(C(C)C)=O)C1=CC=C(C=C1)Cl | C33H39Cl2N3O2
